US07906677B2
3.45 g of 2-Chloro-6-methyl-aniline are dissolved in 26 ml of toluene. 0.227 g of p-toluene-sulfonic acid (mono hydrate) are added and the mixture is heated to reflux. A solution of 5.0 g of (5-Ethyl-2-oxo-cyclohexylidene)-acetic acid ethyl ester in 13 ml of toluene is added drop-wise during 75 minutes and the water formed is collected by the means of a water separator. The reaction mixture is heated to reflux for 15 hours, during which time the condensing solvent is frequently removed and replaced by fresh toluene. For work-up, the mixture is cooled to 22° C. and is treated with 70 ml of saturated aqueous sodium bicarbonate solution under rigorous stirring. The layers are separated and the toluene phase is washed with a 5% aqueous solution of citric acid and finally with a 10% solution of sodium chloride in water. The aqueous phases are extracted with 70 ml of toluene and the toluene phases are combined. The solvent is evaporated in vacuo to yield 7.1 g of the crude product as a highly viscous oil. An analytical sample of the crude product can be purified by chromatography on silica gel using toluene/ethyl acetate (9:1) as eluent to yield pure 1-(2-Chloro-6-methyl-phenyl)-5-ethyl-1,4,5,6-tetrahydro-indol-2-one.

reactant | 2-Chloro-6-methyl-aniline | 3.45 g | ClC1=C(N)C(=CC=C1)C | C7H8ClN
reactant | p-toluene-sulfonic acid | 0.227 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | (5-Ethyl-2-oxo-cyclohexylidene)-acetic acid ethyl ester | 5.0 g | C(C)OC(C=C1C(CCC(C1)CC)=O)=O | C12H18O3
reactant | water | O | H2O
solvent | toluene | 26 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 13 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Chloro-6-methyl-phenyl)-5-ethyl-1,4,5,6-tetrahydro-indol-2-one | ClC1=C(C(=CC=C1)C)N1C(C=C2CC(CC=C12)CC)=O | C17H18ClNO
